US07005432B2
5-(3-Methoxy-5-trifluoromethyl-phenyl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride
The title compound, MS: m/e=349.4 (M+H+), was prepared from 2-(3-methoxy-5-trifluoromethyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane and 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine.

reactant | 2-(3-methoxy-5-trifluoromethyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | COC=1C=C(C=C(C1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C | C14H18BF3O3
reactant | 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine | ClC=1C=C(N=NC1)CN1C(=NC=C1)C | C9H9ClN4
product | 5-(3-Methoxy-5-trifluoromethyl-phenyl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride | Cl.COC=1C=C(C=C(C1)C(F)(F)F)C=1C=C(N=NC1)CN1C(=NC=C1)C | InChI=1S/C17H15F3N4O.ClH/c1-11-21-3-4-24(11)10-15-6-13(9-22-23-15)12-5-14(17(18,19)20)8-16(7-12)25-2;/h3-9H,10H2,1-2H3;1H
